US08871753B2
Step A: tert-Butyl (3-{[(3-nitrophenyl)acetyl]amino}phenyl)carbamate
tert-Butyl (3-aminophenyl)carbamate (1.0 g, 4.8 mmol) was dissolved in methylene chloride (4 mL) and then thionyl chloride (2.0 mL, 27 mmol) was added. The mixture was heated at 80° C. for 1 h. The solvent was removed under vacuum. Tetrahydrofuran (20 mL), triethylamine (2.3 mL, 17 mmol) and (3-nitrophenyl)acetic acid (0.87 g, 4.8 mmol) were then added and the mixture was stirred at rt for 1 h. The solvent was removed under vacuum and then EtOAc and water were added. The aqueous phase was extracted again with EtOAc. The organics were combined, dried over Na2SO4 and concentrated to give the desired product as a white powder (1.70 g, 95%). LCMS for C19H21N3O5 (M-tBu+H)+: m/z=316.0.

reactant | tert-Butyl (3-aminophenyl)carbamate | 4.8 mmol, 1.0 g | NC=1C=C(C=CC1)NC(OC(C)(C)C)=O | C11H16N2O2
reactant | thionyl chloride | 27 mmol, 2.0 mL | S(=O)(Cl)Cl | Cl2OS
reactant | triethylamine | 17 mmol, 2.3 mL | C(C)N(CC)CC | C6H15N
reactant | (3-nitrophenyl)acetic acid | 4.8 mmol, 0.87 g | [N+](=O)([O-])C=1C=C(C=CC1)CC(=O)O | C8H7NO4
solvent | methylene chloride | 4 mL | C(Cl)Cl | CH2Cl2
solvent | Tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | tert-Butyl (3-{[(3-nitrophenyl)acetyl]amino}phenyl)carbamate | 1.70 g, 95% | [N+](=O)([O-])C=1C=C(C=CC1)CC(=O)NC=1C=C(C=CC1)NC(OC(C)(C)C)=O | C19H21N3O5
